US04732985
1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2,4-dihydroxybutane
A solution of ethyl 4{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetoacetate (0.99 g) (see European patent application publication No. 0132375) in tetrahydrofuran (10 ml) was added dropwise over five minutes to a stirred, ice-cooled suspension of lithium aluminium hydride (0.19 g) in tetrahydrofuran (20 ml). The ice-cooled mixture was stirred for 40 minutes, quenched into water and partitioned between ethyl acetate and 1M hydrochloric acid. The layers were separated and the organic layer was washed with water, dried over Na2SO4 and evaporated. The residue was purified by chromatography on SiO2 (8g) using dichloromethane plus 0-50% ethyl acetate as the eluant. Appropriate fractions were combined and evaporated and the residue triturated with ether/hexane. The resulting solid was collected, washed with ether and dried to give the title compound (0.25 g), m.p. 86°-89° C.

reactant | ethyl 4{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}acetoacetate | 0.99 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(CC(=O)OCC)=O)C(=O)OCC | C24H27Cl2NO8
reactant | lithium aluminium hydride | 0.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2,4-dihydroxybutane | 0.25 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(CCO)O)C(=O)OCC | C22H27Cl2NO7
